US07354934B2
Preparation of carbonic acid pyrrolidin-3-ylmethyl ester vinyl ester hydrochloride
3-Vinyloxycarbonyloxymethyl-pyrrolidine-1-carboxylic acid vinyl ester (335 mg, 1.39 mmol) was dissolved in CH2Cl2 (10 mL), and HCl(g) was passed through the solution for 2 minutes then the solution was concentrated in vacuo. The residue was dissolved in MeOH (10 mL) and heated to reflux for 15 minutes then concentrated in vacuo to give a colourless oil (284 mg, 99%). 1H NMR (CD3OD) δ 1.78-1.91 (m, 1H), 2.17-2.28 (m, 1H), 2.79 (m, 1H), 3.09 (dd, 1H, J=12, 7.8 Hz), 3.25-3.51 (m, 3H), 4.19-4.33 (m, 2H), 4.62 (dd, 1H, J=6.2, 2.0 Hz), 4.89 (m, 1H), 7.11 (dd, 1H, J=14, 6.0 Hz).

reactant | 3-Vinyloxycarbonyloxymethyl-pyrrolidine-1-carboxylic acid vinyl ester | 1.39 mmol, 335 mg | C(=C)OC(=O)N1CC(CC1)COC(=O)OC=C | C11H15NO5
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | carbonic acid pyrrolidin-3-ylmethyl ester vinyl ester hydrochloride | 284 mg, 99% | Cl.C(=C)OC(OCC1CNCC1)=O | InChI=1S/C8H13NO3.ClH/c1-2-11-8(10)12-6-7-3-4-9-5-7;/h2,7,9H,1,3-6H2;1H
